US06936612B2
4-(6-Nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (83 g, 0.269 mol) in methanol (1.3 L) plus Raney Nickel (15 g, 50% slurry in water) were placed in a Parr shaker and hydrogenated at 50 psi of hydrogen for 5 h. The reaction mixture was filtered through a pad of celite and concentrated to a brown solid. This material was triturated with diethyl ether (120 mL) for 4 h. Heptane was added and the mixture was cooled to 0° C. for 45 min. The solid was collected by filtration and dried to afford the product 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester as a tan solid (62.46 g, 83%). mp 130-132° C. MS (ESI); M++1: Calc'd, 279.2. Found 279. Anal. Calc'd for C14H22N4O3: C, 60.41; H, 7.97; N, 20.13. Found; C, 60.45; H, 7.60; N, 19.87.

reactant | 4-(6-Nitro-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.269 mol, 83 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C14H20N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1.3 L | CO | CH4O
catalyst | Raney Nickel | 15 g | [Ni] | Ni
product | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 62.46 g, 83% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
